US04602019
2,3-Dihydro-5-(1H-imidazol-1-yl)-1-oxo-1H-indene-2-acetic acid
A mixture of 3.3 g of 5-fluoro-2,3-dihydro-1-oxo-1H-indene-2-acetic acid [prepared by following the procedure of G. Cignarella, M. Loriga, G. A. Pinna, M. A. Pirisi, P. Schaitti, and D. Selva, Il Farmaco, Ed. Sci. 37(2), 133-40 (1981)], 2.2 g of anhydrous K2CO3, 1.65 g of imidazole, and 0.15 g of CuO in 15 ml of pyridine is heated to reflux for 24 hours. The reaction mixture is filtered, the filtrate is diluted with water, and the pH of the solution is adjusted to 5. The solid is filtered, washed with water, and crystallized from ethanol to yield 1.6 g of the product, 2,3-dihydro-5-(1H-imidazol-1-yl)-1-oxo-1H-indene-2 acetic acid, mp 224°-226° dec.

reactant | 5-fluoro-2,3-dihydro-1-oxo-1H-indene-2-acetic acid | 3.3 g | FC=1C=C2CC(C(C2=CC1)=O)CC(=O)O | C11H9FO3
reactant | K2CO3 | 2.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | imidazole | 1.65 g | N1C=NC=C1 | C3H4N2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 2,3-Dihydro-5-(1H-imidazol-1-yl)-1-oxo-1H-indene-2-acetic acid | 1.6 g | N1(C=NC=C1)C=1C=C2CC(C(C2=CC1)=O)CC(=O)O | C14H12N2O3
